* A dual opamp ngspice model
* file name: lm393_dual.lib
*
*             P1   P2   P3  P4   P5   P6   P7   P8
.subckt LM393 OUTa INa- INa+ GND INb+ INb- OUTb Vcc
.include lm393.lib
xlm339a INa+ INa- VCC GND OUTa LM2903B
xlm339b INb+ INb- VCC GND OUTb LM2903B
.ends
