* A dual opamp ngspice model
* file name: lm393_quad.lib
*
*             P1   P2   P3  P4   P5   P6   P7   P8   P9   P10  P11  P12 P13  P14
.subckt LM339 OUTb OUTa Vcc INa- INa+ INb- INb+ INc- INc+ INd- INd+ GND OUTd OUTc
.include lm393.lib
xlm339a INa+ INa- VCC GND OUTa LM2903B
xlm339b INb+ INb- VCC GND OUTb LM2903B
xlm339c INc+ INc- VCC GND OUTc LM2903B
xlm339d INd+ INd- VCC GND OUTd LM2903B
.ends
